US04492692
2-Fluoro-4-formyl-1-triphenylmethylimidazole was dissolved in a 2:1 (v/v) mixture of THF and isopropanol and treated with sodium borohydride at 20°. After 5 minutes the reaction was quenched with water. Extractive work-up and final trituration with MeOH gave 2-fluoro-4-hydroxymethyl-1-triphenylmethylimidazole. This was reacted with methanesulphonyl chloride and triethylamine in CH2Cl2 at ambient temperature to give 4-chloromethyl-2-fluoro-1-triphenylmethylimidazole. This was treated at ambient temperature in a water/THF solution with sodium azide, and crude product deprotected with toluene-p-sulphonic acid in CH2Cl2, to give 4-azidomethyl-2-fluoroimidazole as its toluene-p-sulphonate salt. This was reacted at 60° for 4 hours in DMF with t-butyl 3-acetoxymethyl-7-aminoceph-3-em-4-carboxylate. The product was purified by silica gel chromatography at -20°, using as eluant CH2Cl2 /MeOH/HOAc 96:2:2 v/v/v, to give t-butyl 3-acetoxymethyl-7-(4-azidomethylimidazol-2-yl)aminoceph-3-em-4-carboxylate, having the following i.r. spectrum: νmax (film) 1680; 1725; 1745; 1790; 2110 cm-1.

reactant | 2-Fluoro-4-formyl-1-triphenylmethylimidazole | FC=1N(C=C(N1)C=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H17FN2O
reactant | sodium borohydride | [BH4-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | isopropanol | C(C)(C)O | C3H8O
product | 2-fluoro-4-hydroxymethyl-1-triphenylmethylimidazole | FC=1N(C=C(N1)CO)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H19FN2O
